Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.05364087077
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6],5.63547453459
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2](#[C:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1],4.40018858711
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],2.8198329169800003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[O:1],4.13080712
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.0306145677
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.6855999309099998
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],0.81264933374
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.39062915897
[H:11].[H:1][O:2][C@:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.62238352698
[C:3](\[O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-6.1660876671099984
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-7.846937703510001
[C:1]#[C:2].[O:3][C:4][C:5]>>[C:1]#[C:2][O:3][C:4]#[C:5],-1.54682749933
[H:10].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.38923466645
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.99336929553
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],5.21183495365
[O:1]=[C:2][C:6]([O:5][C:3][H:4])([H:7])[H:8]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8],-2.78350863626
[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3][C:6]([H:7])[H:8].[C:4]=[O:5],0.21193014217
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],3.77116736433
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.564639241938
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6][H:7],6.977617800489999
[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.2540144922900005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.83605926555
[C:2]([H:3])#[C:4][O:5][C:6][H:7].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6][H:7],-3.5301210089
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.84999522752
[C:1].[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9](=[O:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9](=[O:10])[H:11],-4.75160560963
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.32779289974
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],2.2800643664400004
